US06632815B2
To a solution of 4-biphenylboronic acid (1.0 g, 5.1 mmol) and ethyl 3-methylpyrazole-5-carboxylate (0.78 g, 5.1 mmol) in 25 mL dry DCM were added pyridine (1.2 mL, 15 mmol) and anhydrous powder of copper(II) acetate (1.84 g, 10 mmol). Some activated molecular sieve powder was added afterwards. The resulting slurry was refluxed for 2 days under argon. The mixture was diluted with DCM, filtered through celite. The blue filtrate was washed with water (×2), dried, concentrated, purified with flush column to yield ethyl 3-methyl-1-(4-phenylphenyl)-1H-pyrazole-5-carboxylate (26%), Rf 0.67 (1:2 EtOAc:hexane), ES-MS: (M+H)+307; and its regioisomer, ethyl 5-methyl-1-(4-phenylphenyl)-1H-pyrazole-3-carboxylate (31%), Rf 0.50 (1:2 EtOAc:hexane), ES-MS: (M+H)+307.

reactant | 4-biphenylboronic acid | 5.1 mmol, 1.0 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | ethyl 3-methylpyrazole-5-carboxylate | 5.1 mmol, 0.78 g | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | pyridine | 15 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 10 mmol, 1.84 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | ethyl 3-methyl-1-(4-phenylphenyl)-1H-pyrazole-5-carboxylate | 26% | CC1=NN(C(=C1)C(=O)OCC)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H18N2O2
